US05302720
A mixture of N-benzoyl-N'-(2'-fluoro-2-biphenylyl)thiourea (9.5 g), sodium hydroxide (1.14 g) and water (80 ml) was heated at 90°-95° C. for 8 hours to give N-(2'-fluoro-2-biphenylyl)thiourea as a colourless solid (m.p. 175°-177° C.).

reactant | N-benzoyl-N'-(2'-fluoro-2-biphenylyl)thiourea | 9.5 g | C(C1=CC=CC=C1)(=O)NC(=S)NC1=C(C=CC=C1)C1=C(C=CC=C1)F | C20H15FN2OS
reactant | sodium hydroxide | 1.14 g | [OH-].[Na+]
solvent | water | 80 ml | O | H2O
product | N-(2'-fluoro-2-biphenylyl)thiourea | FC1=C(C=CC=C1)C1=C(C=CC=C1)NC(=S)N | C13H11FN2S
